US08461175B2
A 150 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 1.2 g of 3-bromo-5-(2,6-difluorophenyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline, prepared in step 1 of example 6, in 24 ml of DMF, 3 ml of diisopropylethylamine and 0.92 ml of 2-(trimethylsilyl)ethoxymethyl chloride. The mixture is stirred at RT for 24 h and then poured into water, extracted with AcOEt, washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. This gives 1.52 g of crude product, which is purified by chromatography on silica gel (20-45 μm), eluting with a DCM/methanol mixture (99.5/0.5 by vol.), to give on one hand 832 mg of 3-bromo-5-(2,6-difluorophenyl)-1-(2-trimethylsilanyl ethoxymethyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline in the form of a white solid. MS (E/I): m/z=616 (M+), and on the other hand 526 mg of 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanyl-ethoxymethyl)-7-iodo-2H-pyrazolo[4,3-c]isoquinoline (ochre oil), which is used as it is in the following step. MS (E/I): m/z=616 (M+).

reactant | 3-bromo-5-(2,6-difluorophenyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline | 1.2 g | BrC1=NNC2=C1N=C(C=1C=C(C=CC21)I)C2=C(C=CC=C2F)F | C16H7BrF2IN3
reactant | diisopropylethylamine | 3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.92 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | water | O | H2O
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
product | 3-bromo-5-(2,6-difluorophenyl)-1-(2-trimethylsilanyl ethoxymethyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline | 832 mg | BrC1=NN(C2=C1N=C(C=1C=C(C=CC21)I)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C22H21BrF2IN3OSi
